US05814653
6-(4-methylbenzenesulfonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 10.4 mg (0.046 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 12.8 mg (0.067 mMol) 4-methylbenzenesulfonyl chloride, 5.3 mg (31%) of the title compound were recovered as a light beige solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.046 mMol, 10.4 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 4-methylbenzenesulfonyl chloride | 0.067 mMol, 12.8 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
product | 6-(4-methylbenzenesulfonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 5.3 mg, 31% | CC1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C21H25N3O2S
